US08541588B2
(2,4-dimethoxy-benzyl)-[1,2,4]thiadiazol-5-yl-amine/N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine
A mixture of 5-amino-1,2,4-thiadiazole (1 g; 9.89 mmol) and 2,4-dimethoxybenzaldehyde (1.81 g; 10.9 mmol) in toluene (30 ml) was refluxed under Dean and Stark conditions for 2 hours. The reaction mixture was evaporated, the residue taken up in methanol (25 ml), NaBH4 (600 mg; 15.9 mmol) added carefully in small portions (vigorous effervescence after each addition), and the reaction was left stirring overnight at ambient temperature. Aqueous HCl (2M, 1 ml) was added followed by aqueous NaOH (2M, 10 ml). The bulk of the methanol was evaporated, water (20 ml) added and extracted with ethyl acetate (2×30 ml). The combined organic was washed brine (20 ml), dried, and evaporated. The residue was purified by silica gel column chromatography (ISCO™ column 120 g; ethyl acetate:heptane 25:75 to 60:40) to furnish a semi-solid residue that was re-evaporated from heptane. 2-3 ml tBuOMe was added, then 2-3 ml heptane, the solid filtered off, washed with heptane and dried to afford 1.22 g of the title compound.

reactant | 5-amino-1,2,4-thiadiazole | 9.89 mmol, 1 g | NC1=NC=NS1 | C2H3N3S
reactant | 2,4-dimethoxybenzaldehyde | 10.9 mmol, 1.81 g | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | NaBH4 | 15.9 mmol, 600 mg | [BH4-].[Na+]
reactant | HCl | 2M, 1 ml | Cl | ClH
reactant | NaOH | 2M, 10 ml | [OH-].[Na+]
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | (2,4-dimethoxy-benzyl)-[1,2,4]thiadiazol-5-yl-amine N-(2,4-dimethoxybenzyl)-1,2,4-thiadiazol-5-amine | 1.22 g | COC1=C(CNC2=NC=NS2)C=CC(=C1)OC.COC1=C(CNC2=NC=NS2)C=CC(=C1)OC | 2C11H13N3O2S
